US04017622
Diethyl 6-(4-methyl-1-piperazinyl)-2-pyridylamino-methylenemalonate
A mixture containing 2.5 g of 6-amino-2-(4-methyl-1-piperazinyl)pyridine and 3.1 g of diethyl ethoxymethylenemalonate was heated at 90° C for 2 hours and then chilled. The resulting solid was recrystallized from benzene to give the product, m.p. 114°- 115° C.

reactant | 6-amino-2-(4-methyl-1-piperazinyl)pyridine | 2.5 g | NC1=CC=CC(=N1)N1CCN(CC1)C | C10H16N4
reactant | diethyl ethoxymethylenemalonate | 3.1 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
product | Diethyl 6-(4-methyl-1-piperazinyl)-2-pyridylamino-methylenemalonate | CN1CCN(CC1)C1=CC=CC(=N1)NC=C(C(=O)OCC)C(=O)OCC | C18H26N4O4
